US06911468B2
(9) Ethyl (2R)-2-(4-{1-[3-(4-butylphenyl)propan-1-yl]-5-methyl-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoate
A solution of 4-{1-[3-(4-butylphenyl)propan-1-yl]-5-methyl-1H-pyrrol-2-yl}phenol (880 mg, 2.53 mmol), ethyl (S)-2-hydroxy-3-phenylpropanoate (492 mg, 2.53 mmol), triphenylphosphine (665 mg, 2.54 mmol) and diethyl azodicarboxylate (442 mg, 2.54 mmol) in toluene (30 ml) was refluxed for 20 hours under heating. The residue was poured into water, extracted with ethyl acetate, washed with saturated brine and dried over magnesium sulfate anhydride. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=8:1) to give the object compound as an oily substance. 440 mg (yield: 33%)

reactant | 4-{1-[3-(4-butylphenyl)propan-1-yl]-5-methyl-1H-pyrrol-2-yl}phenol | 2.53 mmol, 880 mg | C(CCC)C1=CC=C(C=C1)CCCN1C(=CC=C1C)C1=CC=C(C=C1)O | C24H29NO
reactant | ethyl (S)-2-hydroxy-3-phenylpropanoate | 2.53 mmol, 492 mg | O[C@H](C(=O)OCC)CC1=CC=CC=C1 | C11H14O3
reactant | triphenylphosphine | 2.54 mmol, 665 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.54 mmol, 442 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Ethyl (2R)-2-(4-{1-[3-(4-butylphenyl)propan-1-yl]-5-methyl-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoate | yield: 33% | C(CCC)C1=CC=C(C=C1)CCCN1C(=CC=C1C)C1=CC=C(O[C@@H](C(=O)OCC)CC2=CC=CC=C2)C=C1 | C35H41NO3
